US04877899
To a solution of (E)-3-fluoro-3-hexylsulfinyl-2-propenol (0.22 g, 1.06 mmol) in 1 ml of pyridine is added butyric anhydride (0.18 ml, 1.1 mmol). The mixture is stirred at RT for 15 hours, then is diluted with water and allowed to stand for 2 hours, followed by extraction with ether/hexane. The organic phase is washed with KHCO3, stripped and purified by column chromatography on silica gel to give (E)-3-fluoro-3-hexylsulfinyl-2-propenyl butyrate (cpd. 4, Table A).

reactant | (E)-3-fluoro-3-hexylsulfinyl-2-propenol | 1.06 mmol, 0.22 g | F\C(=C/CO)\S(=O)CCCCCC | C9H17FO2S
reactant | butyric anhydride | 1.1 mmol, 0.18 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | (E)-3-fluoro-3-hexylsulfinyl-2-propenyl butyrate | C(CCC)(=O)OC\C=C(\S(=O)CCCCCC)/F | C13H23FO3S
